US04329353
To a stirred mixture of 11 parts of 1-(4-chlorophenyl)-4-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-3-cyclohexene-1-carbonitrile, 5 parts of sodium methoxide solution 30% and 320 parts of methanol are added portionwise 3 parts of sodium borohydride. Upon completion, stirring is continued first for one hour at reflux temperature and further overnight at room temperature. The reaction mixture is poured onto water. The precipitated product is filtered off and boiled in methanol. The product is filtered off and dried, yielding 5.3 parts of 1-(4-chlorophenyl)-4-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]cyclohexanecarbonitrile; mp. 299° C.

reactant | 1-(4-chlorophenyl)-4-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-3-cyclohexene-1-carbonitrile | ClC1=CC=C(C=C1)C1(CC=C(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C#N | C25H25ClN4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-chlorophenyl)-4-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]cyclohexanecarbonitrile | ClC1=CC=C(C=C1)C1(CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C#N | C25H27ClN4O
